US04122179
Apovincamine caproate
As in the preceding example, from 3.36 g of apovincamine and 1.17 g of caproic acid, there are obtained 4.1 of a semi-solid product, having low melting point, insoluble in water and alcohol, and with an apovincamine content of 71%

reactant | apovincamine | 3.36 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
reactant | caproic acid | 1.17 g | C(CCCCC)(=O)O | C6H12O2
solvent | water | O | H2O
product | Apovincamine caproate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.C(CCCCC)(=O)[O-] | InChI=1S/C21H24N2O2.C6H12O2/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;1-2-3-4-5-6(7)8/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;2-5H2,1H3,(H,7,8)/p-1/t19-,21+;/m1./s1
